US05055464
In 300 ml of dimethylformamide are dissolved 18 g of tert-butyl trans-3-amino-4-oxo-2-phenyl-2,3,4,5-tetrahydro-1,5-benzothiazepine-5-acetate and 12 g of succinimido indolecarboxylate as synthesized by a known method, and the solution is stirred at 60° C. for 33.5 hours. The reaction mixture is poured to ice-water, and the mixture is stirred to separate crystals, which are collected by filtration and washed with water and dried to give 22 g of tert-butyl trans-3-(2-indolecarboxamido)-4-oxo-2-phenyl-2,3,4,5-tetrahydro-1,5-benzothiazepine-5-acetate, m.p. 196°-200° C. (decomposition).

reactant | tert-butyl trans-3-amino-4-oxo-2-phenyl-2,3,4,5-tetrahydro-1,5-benzothiazepine-5-acetate | 18 g | N[C@H]1[C@@H](SC2=C(N(C1=O)CC(=O)OC(C)(C)C)C=CC=C2)C2=CC=CC=C2 | C21H24N2O3S
reactant | succinimido indolecarboxylate | 12 g | N1C(=CC2=CC=CC=C12)C(=O)ON1C(CCC1=O)=O | C13H10N2O4
solvent | dimethylformamide | 300 ml | CN(C=O)C | C3H7NO
product | tert-butyl trans-3-(2-indolecarboxamido)-4-oxo-2-phenyl-2,3,4,5-tetrahydro-1,5-benzothiazepine-5-acetate | 22 g | N1C(=CC2=CC=CC=C12)C(=O)N[C@H]1[C@@H](SC2=C(N(C1=O)CC(=O)OC(C)(C)C)C=CC=C2)C2=CC=CC=C2 | C30H29N3O4S
